US07115591B2
2-(3-Chlorophenyl)-4-(cyclopentyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
To a −78° C. solution of 2-(3-chlorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone, prepared in Example 333, (0.175 g, 0.33 mmol) in THF (3.3 mL) was added cyclopentyl magnesium chloride (0.17 mL, 1.0 M in diethyl ether). The resulting solution was stirred under nitrogen less than 1 hour with warming to room temperature. The reaction was poured into water and extracted with ethyl acetate. The combined organics were dried over MgSO4 and concentrated in vacuo. The resulting crude product was purified using flash chromatography (SiO2, 2:1 ethyl acetate:hexanes) to provide the desired product (yield: 0.1328 g, 94%). mp 155–157° C. 1H NMR (300 MHz, DMSO d6) δ 1.50 (m, 2H), 1.66 (m, 2H), 1.79 (m, 2H), 2.09 (m, 2H), 2.90 (m, J=8 Hz, 1H), 3.26–3.37 (3H, obstructed by H2O), 7.49–7.63 (m, 3H), 7.71 (m, 3H), 7.97 (s, 1H), 8.10 (m, 2H). MS (DCI/NH3) m/z 429 (M+H)+, 446 (M+NH4)+. Anal. calc. for C22H21ClN2O3S: C, 61.60; H, 4.93; N, 6.53. Found: C, 61.48; H, 4.81; N, 6.22.

reactant | 2-(3-chlorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | ClC=1C=C(C=CC1)N1N=CC(=C(C1=O)OS(=O)(=O)C1=CC=C(C)C=C1)C1=CC=C(C=C1)S(=O)(=O)C | C24H19ClN2O6S2
reactant | cyclopentyl magnesium chloride | 1.0 M, 0.17 mL | C1(CCCC1)[Mg]Cl
reactant | water | O | H2O
solvent | THF | 3.3 mL | C1CCOC1 | C4H8O
product | 2-(3-Chlorophenyl)-4-(cyclopentyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | yield: 0.1328 g, 94% | ClC=1C=C(C=CC1)N1N=CC(=C(C1=O)C1CCCC1)C1=CC=C(C=C1)S(=O)(=O)C | C22H21ClN2O3S
